US07429597B2
6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-4-(tert.-butyloxycarbonyl)-butyl-amino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline
Prepared analogously to Example 2d from 4,6-dichloro-7-(pyrrolidin-1-yl-carbonyl)-quinazoline, (S)-1-(5-chloro-1H-benzimidazol-2-yl)-4-(tert.-butyloxycarbonyl)-butylamine and triethylamine in N,N-dimethylformamide.

reactant | 4,6-dichloro-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)Cl)C(=O)N1CCCC1 | C13H11Cl2N3O
reactant | (S)-1-(5-chloro-1H-benzimidazol-2-yl)-4-(tert.-butyloxycarbonyl)-butylamine | ClC1=CC2=C(NC(=N2)[C@H](CCCC(=O)OC(C)(C)C)N)C=C1 | C16H22ClN3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-4-(tert.-butyloxycarbonyl)-butyl-amino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CCCC1)N[C@@H](CCCC(=O)OC(C)(C)C)C1=NC2=C(N1)C=CC(=C2)Cl | C29H32Cl2N6O3
